US05580863
Iodotrimethylsilane [(CH3)3SiI](3.17 g) was added at 0° C. to a mixture of N-(4-diethoxyphosphorylmethylphenyl)-4-oxo-4H-1-benzopyran-2-carboxamide (2.99 g) and carbon tetrachloride (60 ml). This mixture was stirred at 0° C. for 1 hour and then at room temperature for 15 hours, after which it was concentrated under reduced pressure. The residue was dissolved in methanol (45 ml), poured over 4N HCl and stirred at room temperature for 30 minutes. The separated crystals were collected by filtration and recrystallized from methanol to yield N-(4-phosphonomethylphenyl)-4-oxo-4H-1-benzopyran-2-carboxamide (0.22 g, 8.5%) as light yellow prisms having a melting point of 265° to 266° C.

reactant | Iodotrimethylsilane | 3.17 g | I[Si](C)(C)C | C3H9ISi
reactant | N-(4-diethoxyphosphorylmethylphenyl)-4-oxo-4H-1-benzopyran-2-carboxamide | 2.99 g | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)NC(=O)C=1OC2=C(C(C1)=O)C=CC=C2 | C21H22NO6P
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(4-phosphonomethylphenyl)-4-oxo-4H-1-benzopyran-2-carboxamide | 0.22 g, 8.5% | P(=O)(O)(O)CC1=CC=C(C=C1)NC(=O)C=1OC2=C(C(C1)=O)C=CC=C2 | C17H14NO6P
